US03963313
15 g. of p-n-pentylbenzoic acid are dissolved in 100 ml. of thionyl chloride and boiled at reflux for 1 hour. The excess thionyl chloride is then removed by distillation and the acid chloride is distilled under high vacuum. The p-n-pentylbenzoic acid chloride which is obtained has a boiling point of 104°C/2 mm.

reactant | p-n-pentylbenzoic acid | C(CCCC)C1=CC=C(C(=O)O)C=C1 | C12H16O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | p-n-pentylbenzoic acid chloride | C(CCCC)C1=CC=C(C(=O)Cl)C=C1 | C12H15ClO
